US04446133
In 75 ml of chloroform was dissolved 10.4 g (0.054 mole) of 1-(4-methoxyphenyl)piperazine at room temperature, and a solution of 7.4 g (0.054 mole) of diethylcarbamoyl chloride in 50 ml of chloroform was dropped to the above solution over a period of 30 minutes. The mixture was stirred at 50° C. for 2 hours, and the insoluble substance was removed, and the filtrate was concentrated under reduced pressure and 100 ml of a 35% aqueous solution of sodium hydroxide and 300 ml of ether were added to the concentrate. The mixture was stirred for a certain time, and the ether layer was dried with anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel chromatography and distillation under reduced pressure to obtain 7.4 of purified 1-(4-methoxyphenyl)-4-diethylcarbamoylpiperazine having a boiling point 195° C. at 0.5 mm Hg. The yield was 47.0%. Elementary analysis values are as follows.

reactant | 1-(4-methoxyphenyl)piperazine | 0.054 mole, 10.4 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | diethylcarbamoyl chloride | 0.054 mole, 7.4 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-methoxyphenyl)-4-diethylcarbamoylpiperazine | yield was 47.0% | COC1=CC=C(C=C1)N1CCN(CC1)C(N(CC)CC)=O | C16H25N3O2
